US05135940
A: Preparation of Methyl 4-methoxy-gamma-oxo-beta-methylbenzenebutanoate
A solution of diisopropylamine (5.1 ml) in anhydrous THF (90 ml) at 0° C. is treated under N2 atmosphere with n-butyllithium (1.6 M, 22 ml) for 20 minutes. The mixture was cooled to -78° C., and a solution of 1(4-methoxyphenyl)-1-oxopropane (5 g) in anhydrous THF (40 ml) is added. The mixture was stirred 30 minutes at -78° C., then methyl bromoacetate (3.05 ml) was added dropwise and then mixture was warmed to ambient temperature over 2 hours. After stirring 18 hours at room temperature the mixture was Poured onto ice, water and conc. HCl (3 ml) was added and the solution was extracted with dichloromethane. The organic extracts were washed with brine, dried over N2SO4 and concentrated to an oil which was purified by chromatography on silica gel to provide the title compound as an oil.

reactant | diisopropylamine | 5.1 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6 M, 22 ml | C(CCC)[Li]
reactant | 1(4-methoxyphenyl)-1-oxopropane | 5 g | COC1=CC=C(C=C1)C(CC)=O | C10H12O2
reactant | methyl bromoacetate | 3.05 ml | BrCC(=O)OC | C3H5BrO2
reactant | HCl | 3 ml | Cl | ClH
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | Methyl 4-methoxy-gamma-oxo-beta-methylbenzenebutanoate | COC1=CC=C(C=C1)C(C(CC(=O)OC)C)=O | C13H16O4
